* source DISCRETECSAMP
C_C1         N00341 N00379  100uF  TC=0,0 
C_C2         VOUT N00485  100uF  TC=0,0 
R_R5         VIN N00341  1k TC=0,0 
R_R1         N00379 N00455  10meg TC=0,0 
R_R2         0 N00379  10meg TC=0,0 
R_R3         VOUT N00455  1k TC=0,0 
V_V1         N00455 0 5Vdc
V_V2         VIN 0  
+SIN 0 10mV 1KhZ 0 0 0
R_R4         0 N00485  10k TC=0,0 
M_M1         VOUT N00379 0 0 MbreakN           
